US06362204B1
3-Nitro-DL -phenylalanine ethyl ester
LDA (2M in heptane/THF/ethyl benzene, 25.45 ml, 50.9 mmol) was added dropwise to a solution of ethyl N-(diphenylmethylene)glycinate (13 g, 48.5 mmol) in THF (200 ml) at −78°. After 40 min a solution of 3-nitrobenzyl bromide (10 g, 46.3 mmol) in THF (40 ml) was added dropwise. The mixture was stirred for 2 h and then partitioned between EtOAc (100 ml) and water (100 ml). The aqueous layer was separated and extracted with EtOAc (2×50 ml) and the combined organics dried (Na2SO4) and evaporated in vacuo. The residue was then dissolved in ethanol (200 ml) and hydrochloric acid (1M, 50 ml) was added and the mixture stirred for 0.25 h. The volatiles were then removed in vacuo and the residue purified by chromatography (SiO2, Et2O) to give the title compound as an orange oil (10.0 g, 96%). δH (CDCl3) 8.09-8.06 (2H, m, Ar), 7.56-7.53 (1H, m, ArH), 7.48-7.43 (1H, m, ArH), 4.15 (2H, q, J 7.2, OCH2CH3), 3.71 (1H, dd, J 7.8, 5.5 Hz, CHCH2), 3.14 (1H, dd, J 13.7, 5.5 Hz, CHCHAHB)2.95 (1H, dd, J 13.7, 7.8 Hz, CHCHAHB), 1.51 (2H, br s, NH2) and 1.23 (3H, t, J 7.2, OCH2CH3); m/z (ESI, 60V) 239 (M++1).

reactant | LDA | 50.9 mmol, 2M, 25.45 ml | [Li+].CC(C)[N-]C(C)C
reactant | ethyl N-(diphenylmethylene)glycinate | 48.5 mmol, 13 g | C1(=CC=CC=C1)C(=NCC(=O)OCC)C1=CC=CC=C1 | C17H17NO2
reactant | 3-nitrobenzyl bromide | 46.3 mmol, 10 g | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 3-Nitro-DL -phenylalanine ethyl ester | 10.0 g, 96% | C(C)OC(C(N)CC1=CC(=CC=C1)[N+](=O)[O-])=O | C11H14N2O4
